US04207234
1-Methoxalyl-3-benzyloxycarbonylamino-2-azetidinone (240 mg.) was dissolved in methanol (10 ml.), and sodium methylate (6 mg.) was added to said solution, and then the mixture was heated under reflux for 45 minutes. The methanol was distilled off from the reaction mixture, and the residue was washed with ether to give crude 3-benzyloxycarbonylamino-2-azetidinone (126 mg.). Furthermore, this product was recrystallized from acetone to give the purified compound (50 mg.). And, the purified same compound (54 mg.) was recovered from the mother liquor. Total yield was 104 mg. Mp 164° to 165° C.

reactant | 1-Methoxalyl-3-benzyloxycarbonylamino-2-azetidinone | 240 mg | C(=O)(C(=O)OC)N1C(C(C1)NC(=O)OCC1=CC=CC=C1)=O | C14H14N2O6
reactant | sodium methylate | 6 mg | C[O-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 3-benzyloxycarbonylamino-2-azetidinone | 126 mg | C(C1=CC=CC=C1)OC(=O)NC1C(NC1)=O | C11H12N2O3
